US07745451B2
A. 3,3-dimethyl-6-nitroindoline
To a stirred solution of 3,3-dimethyl-6-nitroindolin-2-one (0.6 g, 3 mmol) (Mertens et al., J. Med. Chem. 30:1279, 1987) in THF (40 mL) at 0° C. under N2 was added 2.0 M solution of BH3.Me2S complex in THF (10 mL, 20 mmol). The mixture was stirred at rt for 10 h, and then quenched by addition of water (10 mL) and concentrated HCl (20 mL). The mixture was further stirred at rt for 5 h, and then basified with sat. aq. Na2CO3 and extracted with EtOAc (50 mL×3). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated to give an orange syrup.

reactant | 3,3-dimethyl-6-nitroindolin-2-one | 3 mmol, 0.6 g | CC1(C(NC2=CC(=CC=C12)[N+](=O)[O-])=O)C | C10H10N2O3
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol, 10 mL | C1CCOC1 | C4H8O
product | 3,3-dimethyl-6-nitroindoline | CC1(CNC2=CC(=CC=C12)[N+](=O)[O-])C | C10H12N2O2
